US03993683
[1-(2'-Fluoro-4-biphenylyl)-ethylsulfinyl]-acetic acid-n-butyl ester
1.5 gm (5 millimols) of [1-(2'-fluoro-4-biphenylyl)-ethylsulfinyl]-acetic acid, m.p. 164° - 165° C, were stirred with 1.05 gm of potassium carbonate and 0.9 ml of n-butyl bromide in 15 ml of dimethyl sulfoxide for 60 hours. The mixture was subsequently diluted with water, and the reaction product was extracted with toluene. After washing, drying and evaporating the extract, the residue (1.7 gm) was recrystallized from cyclohexane. Yield: 1.2 gm (67% of theory); m.p.: 72° - 74° C.

reactant | [1-(2'-fluoro-4-biphenylyl)-ethylsulfinyl]-acetic acid | 5 millimols, 1.5 gm | FC1=C(C=CC=C1)C1=CC=C(C=C1)C(C)S(=O)CC(=O)O | C16H15FO3S
reactant | potassium carbonate | 1.05 gm | C([O-])([O-])=O.[K+].[K+]
reactant | n-butyl bromide | 0.9 ml | C(CCC)Br | C4H9Br
solvent | dimethyl sulfoxide | 15 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | [1-(2'-Fluoro-4-biphenylyl)-ethylsulfinyl]-acetic acid-n-butyl ester | C(CCC)OC(CS(=O)C(C)C1=CC=C(C=C1)C1=C(C=CC=C1)F)=O | C20H23FO3S
